US08980887B2
N-(2-methoxyethyl)-N-(3-pyridinylmethyl)-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride (Compound 6)
According to the method of Example 14, 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid and N-(3-pyridinylmethyl)-2-methoxyethylamine were used as raw materials for synthesis, white solid powder, yield 69.4%. m.p. 234-235° C., ESI-MS m/z: 450[M+H]+, 1H NMR(DMSO-d6, 400 MHz) δ: 2.39(s, 2.4H), 2.40(s, 0.6H), 3.10(s, 0.6H), 3.11(s, 2.4H), 3.48(t, 2H, J=4.76 Hz), 3.68(t, 2H, J=4.76 Hz), 4.14(s, 0.4H), 4.38(s, 1.6H), 4.63(s, 1.6H), 4.83(s, 0.4H), 7.16-7.22(m, 1H), 7.34-7.47(m, 4H), 7.51(s, 1H), 7.80-7.82(m, 1H), 8.10-8.12(m, 1H), 8.21-8.27(m, 1H), 8.48-8.51(m, 2H).

reactant | 2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetic acid | ClC1=CC=C(C=C1)C=1N=C2N(C=CC(=C2)C)C1CC(=O)O | C16H13ClN2O2
reactant | N-(3-pyridinylmethyl)-2-methoxyethylamine | N1=CC(=CC=C1)CNCCOC | C9H14N2O
product | N-(2-methoxyethyl)-N-(3-pyridinylmethyl)-2-(4-chlorophenyl)-7-methylimidazo[1,2-a]pyridine-3-acetamide.hydrochloride | yield 69.4% | Cl.COCCN(C(CC1=C(N=C2N1C=CC(=C2)C)C2=CC=C(C=C2)Cl)=O)CC=2C=NC=CC2 | InChI=1S/C25H25ClN4O2.ClH/c1-18-9-11-30-22(25(28-23(30)14-18)20-5-7-21(26)8-6-20)15-24(31)29(12-13-32-2)17-19-4-3-10-27-16-19;/h3-11,14,16H,12-13,15,17H2,1-2H3;1H
